US04782083
6-Bromo-2,2-dimethyl-7-nitro-2H-1-benzopyran (D1)
A suspension of 6-amino-2,2-dimethyl-7-nitro-2H-1-benzopyran (5.0 g, the preparation of which was described in J. Med. Chem., 26, 1582 (1983)) in glacial acetic acid (19 mL) was added dropwise to a stirred solution of sodium nitrite (1.6 g) in conc. H2SO4 (19 mL) while maintaining the temperature below 10° C. After an additional 0.5 h, the dark brown solution was added to a stirred solution of CuBr (6.5 g) in 47% HBr (53 mL). After 1 h, water was added to the solution and it was extracted with ethyl acetate. The organic extract was washed with water, saturated sodium bicarbonate solution, and dried over anh. MgSO4. The organic layer was filtered, evaporated, and chromatographed on silica gel. Elution with 3% ethyl acetate--60°-80° C. petroleum ether gave the compound of description 1 as a crude solid (3.5 g). Mass spectrum (E.I.) M+ at m/z 282.9848. Calcd. for C11H10NO3Br: 282.9845.

reactant | 6-amino-2,2-dimethyl-7-nitro-2H-1-benzopyran | NC=1C(=CC2=C(C=CC(O2)(C)C)C1)[N+](=O)[O-] | C11H12N2O3
reactant | sodium nitrite | 1.6 g | N(=O)[O-].[Na+]
reactant | water | O | H2O
reactant | HBr | 53 mL | Br | BrH
solvent | acetic acid | 19 mL | C(C)(=O)O | C2H4O2
solvent | H2SO4 | 19 mL | OS(=O)(=O)O | H2O4S
product | 6-Bromo-2,2-dimethyl-7-nitro-2H-1-benzopyran | 3.5 g | BrC=1C(=CC2=C(C=CC(O2)(C)C)C1)[N+](=O)[O-] | C11H10BrNO3
